US08067408B2
To a suspension of 3-(aminomethyl)-5-bromobenzonitrile (1.6 g, 6.5 mmol) and Na2CO3 (1.7 g, 16.2 mmol) in CH2Cl2 (25 mL), the solution of Boc2O (1.6 g, 7.1 mmol) in CH2Cl2 (10 mL) was added dropwise. Then the reaction mixture was stirred overnight at room temperature. After filtration, the solid was washed with CH2Cl2 (10 mL×2), and then the filtrate was washed with water (20 mL×2), brine (20 mL×2) and dried over Na2SO4. After removing the solvent, 1.9 g of 1,1-dimethylethyl [(3-bromo-5-cyanophenyl)methyl]carbamate was obtained (yield: 94.5%).

reactant | 3-(aminomethyl)-5-bromobenzonitrile | 6.5 mmol, 1.6 g | NCC=1C=C(C#N)C=C(C1)Br | C8H7BrN2
reactant | Na2CO3 | 16.2 mmol, 1.7 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Boc2O | 7.1 mmol, 1.6 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl [(3-bromo-5-cyanophenyl)methyl]carbamate | 1.9 g, yield: 94.5% | BrC=1C=C(C=C(C1)C#N)CNC(OC(C)(C)C)=O | C13H15BrN2O2
